US08168821B2
Diallyl [4-(tert-butoxycarbonyl)benzyl]malonate
At 0° C., 6.29 g (0.16 mol) of sodium hydride (careful: evolution of hydrogen) are added a little at a time to a solution of 48.24 g (0.26 mol) of diallyl malonate in 100 ml of dioxane and 40 ml of THF. After warming to room temperature, the mixture is stirred at 40° C. for 1 hour. At 40° C., 29.69 g (0.13 mol) of tert-butyl 4-chloromethylbenzoate, dissolved in 100 ml of dioxane and 40 ml of THF, are slowly added dropwise, and the reaction solution is then stirred at a bath temperature of 110° C. overnight. After cooling to room temperature, 40 ml of saturated ammonium chloride solution and 100 ml of water are added carefully to the reaction mixture. The mixture is then extracted three times with ethyl acetate, and the combined organic phases are washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is evaporated to dryness under reduced pressure. The crude product obtained is purified by flash chromatography on 2 kg of silica gel (mobile phase: petroleum ether/ethyl acetate 20:1). This gives 30.4 g (81 mmol, 62% of theory) of a colorless solid.

reactant | sodium hydride | 0.16 mol, 6.29 g | [H-].[Na+]
reactant | diallyl malonate | 0.26 mol, 48.24 g | C(CC(=O)OCC=C)(=O)OCC=C | C9H12O4
reactant | tert-butyl 4-chloromethylbenzoate | 0.13 mol, 29.69 g | ClCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15ClO2
reactant | ammonium chloride | 40 ml | [Cl-].[NH4+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | Diallyl [4-(tert-butoxycarbonyl)benzyl]malonate | C(C)(C)(C)OC(=O)C1=CC=C(CC(C(=O)OCC=C)C(=O)OCC=C)C=C1 | C21H26O6
